US04304689
Chem. Abstracts, Volume 93, 1980, at 204066f discloses a summary of Japanese Kokai Tokkyo Koho 80-85,534 which discloses the reaction of diisobutylene with carbon monoxide in the presence of cobalt octacarbonyl, dioctylphosphine and dodecylbenzene at 120 kg/cm2 and 150° C. for 5 hours yielding isononyl aldehyde and isononyl alcohol.

reactant | diisobutylene | CC(=C)CC(C)(C)C | C8H16
reactant | carbon monoxide | [C]=O | CO
reactant | dioctylphosphine | C(CCCCCCC)PCCCCCCCC | C16H35P
reactant | dodecylbenzene | C(CCCCCCCCCCC)C1=CC=CC=C1 | C18H30
catalyst | cobalt octacarbonyl | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | isononyl alcohol | C(CCCCCC(C)C)O | C9H20O
